US07893056B2
To a stirred solution of (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid (0.282 g, 0.92 mmol), 2-chloro-6-(cyclobutylamino)-5-fluoro-4(1H)-pyrimidinone hydrazone (0.225 g), HOAt (0.132 g, 0.97 mmol) and NMM (0.53 mL, 4.85 mmol) in DMF (5 mL) was added EDC (0.186 g, 0.97 mmol) and the reaction was stirred overnight. The mixture was diluted with ether, washed with water, and the aqueous layer was back extracted with ether. The organics were dried (Na2SO4) and concentrated in vacuo. The resulting residue was purified by RP-HPLC to provide [(2R)-3-{2-[2-chloro-6-(cyclobutylamino)-5-fluoro-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide as a brown oil (0.055 g). LCMS: (M+H)+=519.2.

reactant | (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid | 0.92 mmol, 0.282 g | C1(CCCC1)C[C@@H](C(=O)O)CN(OCC1=CC=CC=C1)C=O | C17H23NO4
reactant | 2-chloro-6-(cyclobutylamino)-5-fluoro-4(1H)-pyrimidinone hydrazone | 0.225 g | ClC=1NC(=C(C(N1)=NN)F)NC1CCC1 | C8H11ClFN5
reactant | HOAt | 0.97 mmol, 0.132 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | NMM | 4.85 mmol, 0.53 mL | CN1CCOCC1 | C5H11NO
reactant | EDC | 0.97 mmol, 0.186 g
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | [(2R)-3-{2-[2-chloro-6-(cyclobutylamino)-5-fluoro-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide | 0.055 g | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OCC1=CC=CC=C1)CC1CCCC1)=O)F)NC1CCC1 | C25H32ClFN6O3
